US05166367
7-[3-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-1,4-benzodioxin-2-methanamine (1.7 g, 10 mmole), 7-(3-chloropropoxy)coumarin (2.4 g, 10 mmole), diisopropylethylamine (1.3 g, 10 mmole) and sodium iodide (5.0 g, 33 mmole) were combined in 100 ml of N-methylpyrrolidinone and heated at 80° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed and replaced with 300 ml of dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, with saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on 100 g of silica gel using chloroform as eluant. The product-containing fractions (Rf=0.15 on silica gel tlc with 1% methanol/chloroform) were combined and concentrated in vacuum and the residue crystallized from isopropanol with the addition of 4N isopropanolic HCl to give 1.1 g of title compound as a tan solid, monohydrochloride, m.p. 213°-215° C.

reactant | 2,3-Dihydro-1,4-benzodioxin-2-methanamine | 10 mmole, 1.7 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | 7-(3-chloropropoxy)coumarin | 10 mmole, 2.4 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 10 mmole, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 33 mmole, 5.0 g | [I-].[Na+]
solvent | N-methylpyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 7-[3-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 1.1 g | O1C(COC2=C1C=CC=C2)CNCCCOC2=CC1=C(C=CC(O1)=O)C=C2 | C21H21NO5
